US07579341B2
A17b) benzyl 4-piperazin-1-yl-piperidine-1-carboxylate
25 mL TFA were added at RT to 16.0 g (39.7 mmol) tert-butyl 4-(1-benzyloxycarbonyl-piperidin-4-yl)-piperazine-1-carboxylate in 200 mL DCM and the reaction mixture was stirred overnight at RT. It was evaporated down i. vac., the residue was taken up in 200 mL water and 200 mL EtOAc, the aqueous phase was separated off, combined with 50 mL 15% K2CO3 solution, extracted twice with 200 mL EtOAc and the combined organic phases were dried over Na2SO4. After elimination of the desiccant and solvent the residue was reacted with any further purification.

reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(1-benzyloxycarbonyl-piperidin-4-yl)-piperazine-1-carboxylate | 39.7 mmol | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C22H33N3O4
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | benzyl 4-piperazin-1-yl-piperidine-1-carboxylate | N1(CCNCC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C17H25N3O2
